US07939537B2
Step 1b: Methyl 3-hydroxy-4-oxo-6,7,-dihydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate
To a solution of methyl 3-hydroxy-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate in 1,4,-dioxane was added dichloro-dicyano benzoquinone (1.1 eqs.). The mixture was stirred and heated to 60° C. for 1 hour. TEA (5 eqs.) was added and stirring was continued for 4 hours. The solution was cooled to room temperature and the product was purified by preparative RP-HPLC, using water (0.1% TFA) and acetonitrile (0.1% TFA) as eluants (column: C18). The product was obtained after lyophilization of the pooled product fractions as a fluffy white material.

reactant | methyl 3-hydroxy-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate | OC1=C(N=C2N(C1=O)CCCC2)C(=O)OC | C10H12N2O4
reactant | dichloro-dicyano benzoquinone | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
solvent | 1,4,-dioxane | O1CCOCC1 | C4H8O2
product | Methyl 3-hydroxy-4-oxo-6,7,-dihydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate | OC1=C(N=C2N(C1=O)CCC=C2)C(=O)OC | C10H10N2O4
